US08686024B2
Synthesis of 1-benzylindolin-5-yl 4-nitrophenylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (70.0 mg, 0.311 mmol) using the same procedure employed for Example 2 (2), but with 4-nitrophenylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a slightly yellow solid (7.1 mg, 6%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 0.311 mmol, 70.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | 4-nitrophenylisocyanate | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
product | 1-benzylindolin-5-yl 4-nitrophenylcarbamate | [N+](=O)([O-])C1=CC=C(C=C1)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C22H19N3O4
